US05688946
A suspension of 250 mg (0.48 mmol) of 3-[(benzyloxy)carbonyl]-N-[(tert-butoxy)carbonyl]-N-[-(1-tert-butoxyformamido)ethyl]-L-alanine tert-butyl ester and 50 mg of palladium/carbon (5%) in 10 ml of ethanol is hydrogenated at room temperature under normal pressure. Thereafter, the catalyst is filtered off and the solution is evaporated under reduced pressure. 1-tert-Butyl 4-hydrogen N-(tert-butoxycarbonyl)-N-[2-(1-tert-butoxyformamido)ethyl]-L-aspartate is obtained as a colourless foam: MS: 433 (M+H)+.

reactant | 3-[(benzyloxy)carbonyl]-N-[(tert-butoxy)carbonyl]-N-[-(1-tert-butoxyformamido)ethyl]-L-alanine tert-butyl ester | 0.48 mmol, 250 mg | C(C)(C)(C)OC([C@@H](N(CCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC(=O)OCC1=CC=CC=C1)=O | C27H42N2O8
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 50 mg | [Pd] | Pd
product | 1-tert-Butyl 4-hydrogen N-(tert-butoxycarbonyl)-N-[2-(1-tert-butoxyformamido)ethyl]-L-aspartate | C(C)(C)(C)OC(=O)N([C@@H](CC(=O)O)C(=O)OC(C)(C)C)CCNC(=O)OC(C)(C)C | C20H36N2O8
